US08193378B2
2-Fluoro-4,6-dimethoxybenzaldehyde (22 g) was dissolved in DCM (110 mL), and a solution of BBr3 in DCM (1 M, 300 mL) was added dropwise thereto under ice-cooling, followed by stirring at room temperature overnight. After confirming completion of the reaction, the reaction liquid was poured into ice-water (100 mL), followed by stirring for 1 hour and then extracting with EtOAc three times. The organic layer was combined, washed with water and brine in this order, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=80:20 to 60:40) to obtain 2-fluoro-4,6-dihydroxybenzaldehyde (12 g) as a white powder.

reactant | 2-Fluoro-4,6-dimethoxybenzaldehyde | 22 g | FC1=C(C=O)C(=CC(=C1)OC)OC | C9H9FO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 110 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 M, 300 mL | C(Cl)Cl | CH2Cl2
product | 2-fluoro-4,6-dihydroxybenzaldehyde | 12 g | FC1=C(C=O)C(=CC(=C1)O)O | C7H5FO3
